US08022208B2
An aqueous 1 M sodium hydroxide solution (3.0 ml) was added to an ethanol (5 ml)-tetrahydrofuran (5 ml) solution of ethyl 1-{2-[3-(4-{[(2-{[(5-chloropyridin-2-yl)amino]carbonyl}-6-hydroxyphenyl)amino]carbonyl}phenyl)-2-oxopyridin-1(2H)-yl]ethyl}piperidine-4-carboxylate (392 mg), followed by stirring at room temperature for 19 hours. 1 M hydrochloric acid (3.0 ml) and water (50 ml) were added to the reaction mixture, followed by extraction with chloroform-isopropanol. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain 1-{2-[3-(4-{[(2-{[(5-chloropyridin-2-yl)amino]carbonyl}-6-hydroxyphenyl)amino]carbonyl}phenyl)-2-oxopyridin-1(2H)-yl]ethyl}piperidine-4-carboxylic acid (332 mg) as a pale yellow solid.

reactant | sodium hydroxide | 1 M, 3.0 ml | [OH-].[Na+]
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | ethyl 1-{2-[3-(4-{[(2-{[(5-chloropyridin-2-yl)amino]carbonyl}-6-hydroxyphenyl)amino]carbonyl}phenyl)-2-oxopyridin-1(2H)-yl]ethyl}piperidine-4-carboxylate | 392 mg | ClC=1C=CC(=NC1)NC(=O)C1=C(C(=CC=C1)O)NC(=O)C1=CC=C(C=C1)C=1C(N(C=CC1)CCN1CCC(CC1)C(=O)OCC)=O | C34H34ClN5O6
reactant | hydrochloric acid | 1 M, 3.0 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-{2-[3-(4-{[(2-{[(5-chloropyridin-2-yl)amino]carbonyl}-6-hydroxyphenyl)amino]carbonyl}phenyl)-2-oxopyridin-1(2H)-yl]ethyl}piperidine-4-carboxylic acid | 332 mg | ClC=1C=CC(=NC1)NC(=O)C1=C(C(=CC=C1)O)NC(=O)C1=CC=C(C=C1)C=1C(N(C=CC1)CCN1CCC(CC1)C(=O)O)=O | C32H30ClN5O6
